US04333934
A solution of 3 g of 4,5-dihydro-imidazo-[1,2-a]-quinoxaline-2-methanol in 500 ml of chloroform and 9 g of manganese dioxide was refluxed with stirring for 6 hours and the mixture was filtered hot and concentrated. The mixture was cooled and filtered to obtain 2.68 g of a imidazo-[1,2-a]quinoxaline-2-methanol and imidazo-[1,2-a]-quinoxaline-2-carboxaldehyde mixture and the latter was chromatographed over silica gel. Elution with a 97.5% chloroform-2.5% methanol mixture yielded first 0.23 g of imidazo-[1,2-a]-quinoxaline-2-carboxaldehyde and then 1.42 g of imidazo-[1,2-a]quinoxaline-2-methanol melting at 217°-220° C. Evaporation of the filtrate yielded 0.43 g of imidazo-[1,2-a]-quinoxaline-2-carboxaldehyde for a total yield of 0.66 g melting at 214°-215° C.

reactant | 4,5-dihydro-imidazo-[1,2-a]-quinoxaline-2-methanol | 3 g | C1=C(N=C2N1C1=CC=CC=C1NC2)CO | C11H11N3O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 9 g | [O-2].[O-2].[Mn+4]
product | imidazo-[1,2-a]quinoxaline-2-methanol | 2.68 g | C1=C(N=C2N1C1=CC=CC=C1N=C2)CO | C11H9N3O
